US05302720
Reaction of 2-amino-3'-fluorobiphenyl (10 g) and thiophosgene (9.2 g) in a mixture of dioxane (15 ml) and water (70 ml) at ambient temperature for 1.5 hours yielded 3'-fluoro-2-biphenylylisothiocyanate as a brown oil.

reactant | 2-amino-3'-fluorobiphenyl | 10 g | NC1=C(C=CC=C1)C1=CC(=CC=C1)F | C12H10FN
reactant | thiophosgene | 9.2 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 70 ml | O | H2O
product | 3'-fluoro-2-biphenylylisothiocyanate | FC=1C=C(C=CC1)C=1C(=CC=CC1)N=C=S | C13H8FNS
